US08258119B2
Methyl 3-[(dimethylamino)diazenyl]-5-phenylthiophene-2-carboxylate:
To a solution of methyl 3-amino-5-phenylthiophene-2-carboxylate (5 g, 21.4 mmol) and conc. HCl (9 mL, 85.8 mmol) in H2O (51 mL) was added acetone (30 mL) to dissolve the product. Then NaNO2 (1.7 g, 23.6 mmol) was added in portions for 15 min at 0° C. After stirring at 0-5° C. for 1 h, the reaction mixture was added to the solution of K2CO3 (11.2 g, 81.5 mmol) and dimethylamine (8.5 mL, 40%, 77.2 mmol) in H2O (60 mL) at 0° C. The mixture was stirred at 0-5° C. for 1 h and poured into ice cold water. The solution was extracted with chloroform (3×100 mL). The combined CHCl3 layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent. The residue was chromatographed over silica gel column using hexane-EtOAc (90:10) as eluents to give the product as a pale brown color solid (3.8 g, 76%), mp 92-94° C. 1H NMR (400 MHz, DMSO-d6): δ 7.78-7.80 (2H, m), 7.64 (1H, s), 7.46-7.52 (3H, m), 3.84 (3H, s), 3.60 (3H, s), 3.28 (3H, s); LC-MS (positive ion mode): m/z 290 (M+H)+.

reactant | methyl 3-amino-5-phenylthiophene-2-carboxylate | 21.4 mmol, 5 g | NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C12H11NO2S
reactant | HCl | 85.8 mmol, 9 mL | Cl | ClH
reactant | NaNO2 | 23.6 mmol, 1.7 g | N(=O)[O-].[Na+]
reactant | K2CO3 | 81.5 mmol, 11.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylamine | 77.2 mmol, 8.5 mL | CNC | C2H7N
solvent | H2O | 51 mL | O | H2O
solvent | H2O | 60 mL | O | H2O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | Methyl 3-[(dimethylamino)diazenyl]-5-phenylthiophene-2-carboxylate | 3.8 g, 76% | CN(C)N=NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C14H15N3O2S
